US04035423
A suspension of 35.4 g of 3-n-decyloxy-4-hydroxyazobenzene and 4 g of pulverised sodium hydroxide in 500 ml of toluene is heated on a water separator until pure toluene distills over. To the mixture there are then added 100 ml of dimethylformamide (anhydrous) and 0.5 g of sodium iodide. The toluene is removed by distillation from the reaction mixture (internal temperature 130°). At 80° there is subsequently added 11 g of cyclopropylmethyl chloride whilst stirring is maintained. After slow heating to 120°-125°, the mixture is allowed to stand for 2 hours at this temperature. The mixture is then cooled; 300 ml of water is added and the whole is repeatedly extracted with toluene. The combined toluene extracts are dried with magnesium sulphate, and the toluene is distilled off. After recrystallisation from ethanol, there is obtained 3-n-decyloxy-4-cyclopropylmethoxyazobenzene, M.P. 58°-60°.

reactant | 3-n-decyloxy-4-hydroxyazobenzene | 35.4 g | C(CCCCCCCCC)OC=1C=C(C=CC1O)N=NC1=CC=CC=C1 | C22H30N2O2
reactant | sodium hydroxide | 4 g | [OH-].[Na+]
reactant | water | O | H2O
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 3-n-decyloxy-4-cyclopropylmethoxyazobenzene | C(CCCCCCCCC)OC=1C=C(C=CC1OCC1CC1)N=NC1=CC=CC=C1 | C26H36N2O2
